US04234499
Synthesis of Cis-diammineplatinum(II) D-fructose-1,6-diphosphate Complex
A 5.0 gram portion of trisodium D-fructose-1,6-diphosphate was dissolved in 10 ml water. The resulting solution was added to 14.1 ml of a 0.67 M aqueous solution of cis-[Pt(NH3)2 (H2O)2 ](NO3)2. The reaction mixture was allowed to stand for 28 days in a 40° C. bath. After that time, the dark blue water-insoluble precipitate which had formed was filtered, washed with water and ethanol, and then dried in vacuum, to yield 0.566 grams of the above-identified complex.

reactant | trisodium D-fructose-1,6-diphosphate | P(=O)([O-])([O-])OCC(=O)[C@@H](O)[C@H](O)[C@H](O)COP(=O)([O-])O.[Na+].[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | D-fructose-1,6-diphosphate | 0.566 grams | P(=O)(O)(O)OCC(=O)[C@@H](O)[C@H](O)[C@H](O)COP(=O)(O)O | C6H14O12P2
